US05620676
N6 -Methyladenosine N1 -oxide:
A solution of N6 -methyladenosine (2 g, 6.7 mmol) and m-chloroperbenzoic acid (2.3 g, 13.4 mmol) in acetic acid (20 ml) was stirred at room temperature for two days. Water (20 ml) was added to the reaction mixture, and a resulting thick precipitate was removed by filtration and discarded. The filtrate was co-evaporated repeatedly with water under high vacuum, and the foamy residue was chromatographed on a silica gel column (CHCl3 : MeOH 2:1). The product was obtained as a white solid (mp 145° C., crystallization from EtOH) in 45% yield (0.9 g). 1H NMR (DMSO)d: 8.62 (s, H-2), 8.55 (s, H-8), 5.88 (d, J=5.4 Hz, 1H, H-1), 4.51 (`t`, J=5.1 Hz, 1H, H-2'), 4.15 (`t`, J=4.5 Hz, 1H, H-3'), 3.94 (ABq, 1H, H-4'), 3.61 (ABdq, J=12, 4 Hz, 2H, H-5'), 3.46 (s, 3H, Me) ppm. MS (CI) m/e: 298 (MH+).

reactant | N6 -methyladenosine | 6.7 mmol, 2 g | CNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C11H15N5O4
reactant | m-chloroperbenzoic acid | 13.4 mmol, 2.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | Water | 20 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N6 -Methyladenosine N1 -oxide | 45% yield | CNC1=C2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2=NC=[N+]1[O-] | C11H15N5O5
